US07629358B2
N-[2-(4-chlorophenyl)ethyl]-3-{2-[(2R)-2-hydroxy-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzamide
3-{2-[(2R)-2-(tert-butydimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}-N-[2-(4-chlorophenyl)ethyl]benzamide (Preparation 38) (470 mg, 0.77 mmol) and ammonium fluoride (280 mg, 7.70 mmol) in methanol (3 ml) and water (1.7 ml) were heated to 43° C. for 18 hours. The solvent was removed in vacuo and the product purified by flash column chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:5:0.5 by volume). The resulting compound was taken up in methanol and evaporated (×3) to yield a white foam (320 mg). A small sample was recrystallised (hexane:ethyl acetate) to give a white solid (mp 139-140° C.).

reactant | 3-{2-[(2R)-2-(tert-butydimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}-N-[2-(4-chlorophenyl)ethyl]benzamide | 0.77 mmol, 470 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)NCCC2=CC=C(C=C2)Cl)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C34H47ClN2O4Si
reactant | ammonium fluoride | 7.70 mmol, 280 mg | [F-].[NH4+]
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1.7 ml | O | H2O
product | N-[2-(4-chlorophenyl)ethyl]-3-{2-[(2R)-2-hydroxy-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzamide | 320 mg | ClC1=CC=C(C=C1)CCNC(C1=CC(=CC=C1)CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O)=O | C28H33ClN2O4
